Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / sulfa / erythromycin base / Percocet / Dulcolax 
(bisacodyl) / doxycycline / paroxetine / Gadolinium-Containing 
Contrast Media
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ woman with hx of anxiety, TMJD, 
diverticulosis,
OA, who presents with dyspnea and pleuritic chest pain. 

She reports about a week of progressively worsening dyspnea and
substernal chest pain. She describes a pain as a tightness in 
the
___ her chest associated with the sensation of being 
unable
to catch her breath. Her symptoms started gradually about a week
ago and have been getting progressively worse. The pain is 
always
present, but both pain and dyspnea are worse with exertion and
also with lying flat. She has tried zantac which did not improve
symptoms. She denies any similar symptoms previously. She denies
radiation of the pain, fevers, chills, night sweats, 
diaphoresis.
She endorses nausea associated with lack of sleep, but no
vomiting. She denies constipation, diarrhea, abdominal pain,
swelling, or rash. She does endorse congestion for the past
several months as well as chronic intermittent headaches and
dizziness. She had one episode of dizziness this past week,
similar to previous episodes, which improved with lying down. 
She
denies recent sick contacts or travel. 

- In the ED, initial vitals were:
 T 98.1  HR 65  BP 156/79  RR 14  SaO2 100% RA 
- Exam was notable for:
Gen: Middle-aged woman, seen sitting mildly uncomfortable
Pulm: CTAB no WRR, unlabored breathing
CV: RRR no MRG
HEENT: Moist mucous membranes, PERRLA, EOMI, no scleral icterus
Abdomen: Soft NTND, no rebound tenderness
Extremities: FROM in all 4 extremities, 2+ pulses peripherally,
no significant edema no calf tenderness
Skin: Warm, dry and intact
Neuro extremely flat affect No gross neurologic deficits, alert
and oriented, moves all extremities no obvious facial
abnormalities
Psych: Extremely flat affect

- Labs were notable for:
UA: 8 WBCs, few bact, neg nitrite, pos leuk est
WBC 8.4, Hb 13.9, plt 246
Na 132, K 3.5, Cr 0.9
LFTs wnl, lipase 42
trop <0.01
D-dimer 600

- Studies were notable for:
CXR:
No acute intrathoracic process.

CTA Chest:
1. No evidence of pulmonary embolism or aortic abnormality. 
2. 2 mm left lower lobe pulmonary nodule.  Please refer to
___ criteria below for follow-up recommendations. 
3. 5 mm right thyroid lobe nodule.  No further follow-up is
recommended. 

- The patient was given:
___ 22:24 PO Acetaminophen 1000 mg 
___ 22:24 TD Lidocaine 5% Patch 1 PTCH  
___ 01:38 IV MethylPREDNISolone Sodium Succ 40 mg 
___ 04:42 IV DiphenhydrAMINE 50 mg 

On arrival to the floor, the patient endorses the above history.
She reports current ___ chest pain and dyspnea at rest which is
improved from yesterday, stable from today. 
ROS otherwise positive for chronic headaches and dizziness.  

 
Past Medical History:
GASTROESOPHAGEAL REFLUX                                         
INTERSTITIAL CYSTITIS                                           
OSTEOARTHRITIS                                                  
TEMPOROMANDIBULAR JOINT DYSFUNCTION                             
DIVERTICULOSIS                                                  
OSTEOPENIA                
 
Social History:
___
Family History:
Mother     
      HYPERTENSION       
      DIABETES MELLITUS       
      CHOLESTEROL       
      GOUT           
Father ___    
      LUPUS       
      HYPERTENSION       
      HIGH CHOLESTEROL       
       
Sister     
      BREAST CANCER       
      RENAL CANCER     

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 1740 Temp: 97.2 PO BP: 135/88 HR: 62 RR: 18 O2
sat: 99% O2 delivery: Ra 
GENERAL: in no acute distress, sitting up in bed, alert
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE EXAM:
===============
24 HR Data (last updated ___ @ 939)
    Temp: 97.7 (Tm 98.0), BP: 107/71 (107-135/69-88), HR: 76
(58-90), RR: 16 (___), O2 sat: 99% (97-100), O2 delivery: RA,
Wt: 109.9 lb/49.85 kg  
GENERAL: in no acute distress, sitting up in chair and eating
breakfast, alert
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing on room air.
ABDOMEN: non distended, non-tender to deep palpation in all four
quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. No rashes.
 
Pertinent Results:
ADMISSION LABS:
===============

___ 09:04PM BLOOD WBC-8.4 RBC-4.52 Hgb-13.9 Hct-40.3 MCV-89 
MCH-30.8 MCHC-34.5 RDW-13.1 RDWSD-42.7 Plt ___
___ 09:04PM BLOOD Neuts-79.1* Lymphs-10.9* Monos-8.4 
Eos-1.0 Baso-0.4 Im ___ AbsNeut-6.63* AbsLymp-0.91* 
AbsMono-0.70 AbsEos-0.08 AbsBaso-0.03
___ 09:44PM BLOOD ___ PTT-31.0 ___
___ 09:44PM BLOOD D-Dimer-600*
___ 09:04PM BLOOD Glucose-118* UreaN-13 Creat-0.9 Na-132* 
K-3.5 Cl-95* HCO3-24 AnGap-13
___ 09:04PM BLOOD ALT-15 AST-24 AlkPhos-65 TotBili-0.5
___ 09:04PM BLOOD Albumin-4.1 Calcium-9.0 Phos-3.2 Mg-2.1 
Cholest-209*

RELEVANT LABS:
==============
___ 09:44PM BLOOD D-Dimer-600*
___ 09:04PM BLOOD Lipase-42
___ 07:14AM BLOOD proBNP-84
___ 08:00AM BLOOD cTropnT-<0.01
___ 09:04PM BLOOD cTropnT-<0.01
___ 09:04PM BLOOD %HbA1c-5.4 eAG-108
___ 09:04PM BLOOD Triglyc-67 HDL-70 CHOL/HD-3.0 LDLcalc-126
___ 09:04PM BLOOD Albumin-4.1 Calcium-9.0 Phos-3.2 Mg-2.1 
Cholest-209*
___ 09:04PM BLOOD TSH-0.57
___ 09:04PM BLOOD CRP-0.6

IMAGING:
========
STRESS ECHO: ___
CONCLUSION: Average functional exercise capacity for age and 
gender. No ischemic ECG
changes with atypical chest pain to achieved treadmill stress. 
No Doppler evidence for a change in
left ventricular filling pressure with exercise. Normal resting 
blood pressure with a blunted blood
pressure and a blunted heart rate response to achieved workload.

CTA CHEST ___
  
1. No evidence of pulmonary embolism or aortic abnormality. 
2. 2 mm left lower lobe pulmonary nodule.  Please refer to 
___ criteria 
below for follow-up recommendations. 
3. 5 mm right thyroid lobe nodule.  No further follow-up is 
recommended. 
  
RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule 
smaller than 6 mm, no CT follow-up is recommended in a low-risk 
patient, and 
an optional CT in 12 months is recommended in a high-risk 
patient. 

DISCHARGE LABS:
===============

___ 07:14AM BLOOD WBC-9.8 RBC-4.70 Hgb-14.5 Hct-42.4 MCV-90 
MCH-30.9 MCHC-34.2 RDW-13.3 RDWSD-43.8 Plt ___
___ 07:14AM BLOOD Glucose-92 UreaN-23* Creat-0.9 Na-138 
K-3.9 Cl-99 HCO3-27 AnGap-___ with hx TMJD, anxiety, who presents with 5 days of dyspnea 
and pleuritic chest pain, negative CTA and stress echo. 
Discharged home with follow up with PCP for further 
investigation of her chest pain, with albuterol inhaler due to 
possible symptoms related to bronchospasm.. 

# Chest pain
# Dyspnea
Pt presented with 1 week of progressive symptoms. Described as 
anginal in nature although symptoms do not completely resolve at 
rest. No cardiac hx or hx similar symptoms or other chest pain. 
Family history notable early onset heart disease in her father 
(CABG < ___ years old), HTN, HLD. CTA to evaluate for PE 
negative. Stress echo negative for concerning changes. Chest 
pain likely not related to cardiac etiology.  She was discharged 
on albuterol as trial.  Discharged with f/u with PCP for further 
investigation. 

# Hyponatremia
Na 132 on admission and 138 with no intervention. Likely 
erroneous. 

# Thyroid nodule
5mm R thyroid lobe nodule noted on CTA. Last TSH wnl ___. No 
follow-up indicated per Radiology. 

# Pyuria
Pt without urinary or systemic symptoms at this time. Pos leuk 
est and WBCs on UA. Treatment deferred given asymptomatic. 

# TMJD
Takes magnesium malate capsule at home. 
- Tylenol PRN

# Supplements
Takes calcium citrate and Vit D at home. 
- continue Vit D

# Pulmonary nodule
2mm LLL pulmonary nodule noted on CTA. Per Radiology, "For 
incidentally detected single solid pulmonary nodule smaller than 
6 mm, no CT follow-up is recommended in a low-risk patient, and 
an optional CT in 12 months is recommended in a high-risk 
patient." Follow up with PCP 

# CODE: Full (presumed)

Transitional issues:
[] Follow up pulmonary nodule on CT scan, optional CT scan in 12 
months is recommended for high risk patients
[] Consider further eval for noncardiac chest pain 
[] Follow up pending Sed rate 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO DAILY 
2. calcium citrate 1200 U oral DAILY 
3. Ranitidine 150 mg PO DAILY:PRN ger 
4. magnesium malate (bulk) 16.2 % miscellaneous DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath  
2.  calcium citrate 1200 U oral DAILY  
3.  magnesium malate (bulk) 16.2 % miscellaneous DAILY  
4.  Ranitidine 150 mg PO DAILY:PRN ger  
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Noncardiac chest pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you here at ___.

You were admitted because you had chest pain with exertion. 
Given you strong family history, we were concerned this was 
related to your heart. You underwent a CT scan of your chest 
which is normal, this is good news. You underwent a stress test 
which was normal which is also good news. You should follow up 
with your primary care doctor for further investigation of your 
shortness of breath. Since your tests all came back negative, it 
is unlikely to be related to your heart. 

Please follow up with your PCP. 

Sincerely,
Your ___ team
 
Followup Instructions:
___